US08802659B2
1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-pyrrolidine-3-carboxylic acid
Synthesized as per 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid using the appropriate intermediate available from the synthesis of 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-pyrrolidine-3-carboxylic acid). ESI-MS (M+H+): 451.3; 1H NMR (400 MHz, METHANOL-d4) Shift 7.99 (d, J=9.29 Hz, 1H), 7.70 (d, J=2.51 Hz, 1H), 7.42 (dd, J=2.64, 9.16 Hz, 1H), 7.13 (s, 1H), 4.60-4.72 (m, 2H), 4.35-4.49 (m, 1H), 3.81 (dd, J=6.53, 12.05 Hz, 1H), 3.72 (dd, J=8.66, 11.92 Hz, 1H), 3.50-3.66 (m, 2H), 3.37-3.49 (m, 1H), 2.42-2.55 (m, 2H), 2.38 (td, J=6.96, 13.68 Hz, 1H), 2.29 (d, J=10.29 Hz, 2H), 1.85-1.98 (m, 2H), 1.36-1.52 (m, 2H), 1.18-1.34 (m, 4H), 1.03-1.18 (m, 1H), 0.91 (s, 9H), 0.79-0.89 (m, 2H).

reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(C1)C(=O)O)C1CC1 | C27H36N2O3
reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-pyrrolidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(CC1)C(=O)O)C | C26H36N2O3
product | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-cyclopropyl-quinolin-2-ylmethyl]-pyrrolidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(CC1)C(=O)O)C1CC1 | C28H38N2O3
